US04592866
5-Chloro-2-[(1-methyl-3-pyrrolidinyl)oxy]benzamide hemihydrate
To a cooled suspension of 2.4 g (0.41 mole) sodium hydride in 50 ml of dimethylformamide was added dropwise 17 g (0.1 mole) of 5-chlorosalicylamide dissolved in 50 ml of dimethylformamide at a rate such that the temperature did not exceed 20° C. After addition of the salicylamide was complete, 16.7 g (0.1 mole) of 3-bromo-1-methylpyrrolidine dissolved in 50 ml of dimethylformamide was added dropwise. The reaction mixture was stirred and heated at reflux for 19 hr. The cooled solution was diluted with 250 ml of water and extracted twice with 250 ml portions of chloroform. The chloroform was extracted thrice with 500 ml portions of 3N hydrochloric acid. The aqueous extracts were made alkaline with 50% sodium hydroxide and extracted with ethyl acetate. Drying over magnesium sulfate and evaporation of the ethyl acetate under reduced pressure gave 6 g (23%) of product as a beige solid. The solid was recrystallized from ethyl acetate, m.p. 126°-128° C.

reactant | sodium hydride | 0.41 mole, 2.4 g | [H-].[Na+]
reactant | 5-chlorosalicylamide | 0.1 mole, 17 g | ClC1=CC=C(C(C(=O)N)=C1)O | C7H6ClNO2
reactant | salicylamide | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | 3-bromo-1-methylpyrrolidine | 0.1 mole, 16.7 g | BrC1CN(CC1)C | C5H10BrN
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
product | 5-Chloro-2-[(1-methyl-3-pyrrolidinyl)oxy]benzamide hemihydrate | 6 g, 23% | O.ClC=1C=CC(=C(C(=O)N)C1)OC1CN(CC1)C.ClC=1C=CC(=C(C(=O)N)C1)OC1CN(CC1)C | InChI=1S/2C12H15ClN2O2.H2O/c2*1-15-5-4-9(7-15)17-11-3-2-8(13)6-10(11)12(14)16;/h2*2-3,6,9H,4-5,7H2,1H3,(H2,14,16);1H2
